US06399629B1
Compound M96: (2S,4R)-4-(2-Aminoacetamido)-N-[7-ethyl-3-quinolyl]-2-pyrrolidinecarboxamide
3-Amino-7-ethylquinoline was coupled with trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline and deprotected according to Compound M1.

reactant | 3-Amino-7-ethylquinoline | NC=1C=NC2=CC(=CC=C2C1)CC | C11H12N2
reactant | trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H29N3O7
product | (2S,4R)-4-(2-Aminoacetamido)-N-[7-ethyl-3-quinolyl]-2-pyrrolidinecarboxamide | NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)NC=1C=NC2=CC(=CC=C2C1)CC | C18H23N5O2
